US08314087B2
A 10-mL CEM vial was swept with Ar, and charged with Fibrecat 1029 (0.034 g, 0.0092 mmol), 4-methylthiophen-2-ylboronic acid (0.052 g, 0.37 mmol), a stirbar, 1-((2,3-dihydrobenzo[b][1,4]dioxin-6-yl)methyl)-5-iodopyridin-2(1H)-one (0.0340 g, 0.092 mmol) dissolved in 1 mL dry dioxane, and sodium carbonate (0.092 ml, 0.18 mmol). The Argon line was removed and the vial quickly sealed. The slurry was irradiated to 120° C. (100 W, powermax=on, ramp time=2 min, to 65° C., then from 2-7 minutes, 200 W, temp=120° C., held for 5 minutes). The solution was diluted with 5 mL DCM and loaded onto an unbuffered, 10 mL Varian Chem elute CE 1005 (PN 12198007) and extracted with DCM (3×30 mL). The combined extracts were concentrated in vacuo. The sample was purified using a 19×150 mm Waters Xterra Prep C18 OBD column (100 Å pore diameter, 5 μm particle size, spherical shape, PN 186002381; Gradient: 0→5 min@20 mL/min, 25% B; 5.0→35 min@20 mL/min, linear gradient to 55% B; 35→45@20 mL/min, isocratic at 55% B, 45→55 min@20 mL/min, step to 100% B; 55→60 min@20 mL/min, step to 25% B; 60 min end). A=10.7 mM NH4 HCO3 in water, B=ACN. A band that eluted from 25.2-26.4 minutes was isolated. The solvent was removed in vacuo to afford 1-((2,3-dihydrobenzo[b][1,4]dioxin-6-yl)methyl)-5-(4-methylthiophen-2-yl)pyridin-2(1H)-one (0.0191 g, 61% yield). MS (ESI pos. ion) m/z (MH+): 340; calcd for C19H17NO3S+H+=340.1). 1H NMR (400 MHz, CDCl3) δ ppm 2.24 (d, J=1.08 Hz, 3 H) 4.23 (s, 4 H) 5.05 (s, 2 H) 6.63 (d, J=9.49 Hz, 1 H) 6.77 (t, J=1.08 Hz, 1H) 6.81-6.86 (m, 3 H) 6.84 (dd, J=2.45, 0.98 Hz, 1 H) 7.46 (d, J=2.54 Hz, 1 H) 7.53 (dd, J=9.49, 2.64 Hz, 1 H). 13C NMR (101 MHz, CDCl3) δ ppm 15.75 (s, 1 C) 51.64 (s, 1 C) 64.29 (s, 2 C) 114.82 (s, 1 C) 117.12 (s, 1 C) 117.67 (s, 1 C) 119.28 (s, 1 C) 121.20 (s, 1 C) 121.32 (s, 1 C) 124.90 (s, 1 C) 129.29 (s, 1 C) 133.15 (s, 1 C) 138.48 (s, 1 C) 138.66 (s, 1 C) 139.09 (s, 1 C) 143.48 (s, 1 C) 143.71 (s, 1 C) 161.65 (s, 1 C).

reactant | 4-methylthiophen-2-ylboronic acid | 0.37 mmol, 0.052 g | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | 1-((2,3-dihydrobenzo[b][1,4]dioxin-6-yl)methyl)-5-iodopyridin-2(1H)-one | 0.092 mmol, 0.0340 g | O1C2=C(OCC1)C=C(C=C2)CN2C(C=CC(=C2)I)=O | C14H12INO3
reactant | sodium carbonate | 0.18 mmol, 0.092 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-((2,3-dihydrobenzo[b][1,4]dioxin-6-yl)methyl)-5-(4-methylthiophen-2-yl)pyridin-2(1H)-one | 0.0191 g, 61% yield | O1C2=C(OCC1)C=C(C=C2)CN2C(C=CC(=C2)C=2SC=C(C2)C)=O | C19H17NO3S
